US05624942
Synthesis of 4-methylmercapto-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine (I-26)
To a solution containing meta-trifluoromethylphenol (1.60 g, 0.0024×4.1 mol), sodium hydride (0.29 g, (ca.60% in mineral oil), 0.0024×3.0 mol) and CuI (0.22 g, 0.0024×0.5 mol) in dimethylformamide, 2-chloro-4-methylmercapto-6-(3-thienylmethyloxy)pyridine (0.64 g, 0. 0024 mol) was added and the resultant solution was refluxed for about 6 hours.

reactant | meta-trifluoromethylphenol | 4.1 mol, 1.60 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 3.0 mol, 0.29 g | [H-].[Na+]
reactant | 2-chloro-4-methylmercapto-6-(3-thienylmethyloxy)pyridine | 0.64 g | ClC1=NC(=CC(=C1)SC)OCC1=CSC=C1 | C11H10ClNOS2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.5 mol, 0.22 g | [Cu]I
product | 4-methylmercapto-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine | CSC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)OCC1=CSC=C1 | C18H14F3NO2S2
